US07429565B2
{1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-1,3-dimethyl-pent-3-enyl}-phosphonic acid diethyl ester
To a solution of {1-cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester (45 mg, 0.084 mmol) in THF (0.5 mL) was added sodium bis(trimethysilyl)amide (1.0 M, 1.13 mL, 1.15 mmol). After stirring for 20 minutes, iodomethane (52 μL, 0.84 mmol) was added dropwise and the resulting mixture was allowed to stir at room temperature for 2 hours. The reaction mixture was quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to dryness. The residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to afford 6.6 mg (23%) of the desired product. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 1.16 (dd, J=7, 8 Hz, 2H), 1.31 (t, 6H), 1.38 (d, 3H), 1.92 (s,3H), 2.17 (s, 3H), 2.23 (m, 1H), 2.65 (m, 1H), 3.30-3.42 (m, 2H), 3.73 (s, 3H), 4.14-4.27 (m, 6H), 5.08 (s, 2H), 5.28 (t, J=7.2 Hz, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 22.26 ppm; MS (m/z) 574 [M+Na]+.

reactant | {1-cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester | 0.084 mmol, 45 mg | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C#N | C26H40NO7PSi
reactant | sodium bis(trimethysilyl)amide | 1.15 mmol, 1.0 M, 1.13 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodomethane | 0.84 mmol, 52 μL | IC | CH3I
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | {1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-1,3-dimethyl-pent-3-enyl}-phosphonic acid diethyl ester | 6.6 mg, 23% | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)(C)C#N | C27H42NO7PSi
